US07094801B2
4-{3E-[5-(3,5-Dimethyl-isoxazol-4-yl)-2,4-dimethoxy-phenyl]-acryloyl}-benzoic acid
The title compound was prepared by condensing 5-(3,5-dimethyl-isoxazol-4-yl)-2,4-dimethoxy-benzaldehyde (Ex-33A) and 4-acetylbenzoic acid in a similar manner as described in Ex-3. Yellow solid, mp>260° C., 7% yield. 1H-NMR (DMSO-d6) δ 8.15 (d, J=8 Hz, 2H), 8.04 (d, J=16 Hz, 1H), 8.02 (d, J=8 Hz, 2H), 7.89 (s, 1H), 7.81 (d, J=16 Hz, 1H), 6.79 (s, 1H), 4.00 (s, 3H), 3.97 (s, 3H), 2.23 (s, 3H) 2.05 (s, 3H) MS m/z=407 ([M]+, 60%), 376 (100%). HMRS (EI) calcd. for C23H21NO6: 407.1369; found: 407.1375.

reactant | 5-(3,5-dimethyl-isoxazol-4-yl)-2,4-dimethoxy-benzaldehyde | CC1=NOC(=C1C=1C(=CC(=C(C=O)C1)OC)OC)C | C14H15NO4
reactant | 4-acetylbenzoic acid | C(C)(=O)C1=CC=C(C(=O)O)C=C1 | C9H8O3
product | 4-{3E-[5-(3,5-Dimethyl-isoxazol-4-yl)-2,4-dimethoxy-phenyl]-acryloyl}-benzoic acid | 7% yield | CC1=NOC(=C1C=1C(=CC(=C(C1)/C=C/C(=O)C1=CC=C(C(=O)O)C=C1)OC)OC)C | C23H21NO6
